US04329347
6-[4-(4-Bromophenyl-mercapto)-butoxy]-carbostyril
Prepared analogous to Example 122 from 6-(4-bromobutoxy)-carbostyril (m.p. 198°-199° C.) and 4-bromo-thiophenol.

reactant | 6-(4-bromobutoxy)-carbostyril | BrCCCCOC=1C=C2C=CC(NC2=CC1)=O | C13H14BrNO2
reactant | 4-bromo-thiophenol | BrC1=CC=C(C=C1)S | C6H5BrS
product | 6-[4-(4-Bromophenyl-mercapto)-butoxy]-carbostyril | BrC1=CC=C(C=C1)SCCCCOC=1C=C2C=CC(NC2=CC1)=O | C19H18BrNO2S
